US06352993B1
5,6-dimethyl-2-(cyclohexylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After cyclohexylamine(0.30 ml, 2.61 mmol) and triethylamine(0.36 ml, 2.59 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(0.5 g, 1.74 mmol) in dimethylformamide, 550 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | cyclohexylamine | 2.61 mmol, 0.30 ml | C1(CCCCC1)N | C6H13N
reactant | triethylamine | 2.59 mmol, 0.36 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 1.74 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1C(C2=CC=CC=C2CC1)C)C)C | C16H18ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(cyclohexylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 550 mg, Yield 81.7% | Cl.CC=1C(=NC(=NC1C)NC1CCCCC1)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C22H30N4.ClH/c1-15-16(2)23-22(24-19-10-5-4-6-11-19)25-21(15)26-14-13-18-9-7-8-12-20(18)17(26)3;/h7-9,12,17,19H,4-6,10-11,13-14H2,1-3H3,(H,23,24,25);1H
